US04713374
This derivative is prepared from 5 g of internal ester of the ganglioside GM1 (3.27 mM) and from 25 ml of 2-methyl-piperidine amine in the same way as in Example 16 and the same purification method is also followed. A yield of 5.2 g of pure 2-methylpiperidine amide of the ganglioside GM1 is obtained.

reactant | ganglioside GM1 | 3.27 mM | CCCCCCCCCCCCCCCCCC(=O)N[C@@H](CO[C@H]1[C@@H]([C@H]([C@@H]([C@H](O1)CO)O[C@H]2[C@@H]([C@H]([C@H]([C@H](O2)CO)O[C@H]3[C@@H]([C@H]([C@H]([C@H](O3)CO)O)O[C@H]4[C@@H]([C@H]([C@H]([C@H](O4)CO)O)O)O)NC(=O)C)O[C@@]5(C[C@@H]([C@H]([C@@H](O5)[C@@H]([C@@H](CO)O)O)NC(=O)C)O)C(=O)O)O)O)O)[C@@H](/C=C/CCCCCCCCCCCCC)O | C73H131N3O31
reactant | 2-methyl-piperidine amine | 25 ml | CC1N(CCCC1)N | C6H14N2
product | 2-methylpiperidine amide | yield of 5.2 g | CC1N(CCCC1)C(=O)N | C7H14N2O
